US09029560B2
Preparation of 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanamine (CA51)
To a stirred and cooled (0° C.) solution of tert-butyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethylcarbamate (C50) (0.10 g, 0.22 mmol) in dichloromethane (1.6 mL) was added trifluoroacetic acid (0.19 mL, 0.25 mmol), and the solution was allowed to warm slowly to ambient temperature and stirred overnight. The reaction mixture was concentrated, taken up in hexanes, and concentrated until a solid was obtained. The solid was dissolved in dichloromethane and washed with saturated sodium bicarbonate. The aqueous layer was extracted with dichloromethane (2×). The combined organic layers were washed with saturated sodium bicarbonate. The organic layers were dried over magnesium sulfate, filtered, and concentrated to give the title compound as a white solid (0.075 g, 97%): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.18-8.07 (m, 2H), 7.83-7.74 (m, 2H), 7.41-7.29 (m, 4H), 3.02 (t, J=6.8 Hz, 2H), 2.81 (t, J=6.8 Hz, 2H), 1.45-1.29 (m, 2H); 19F NMR (376 MHz, CDCl3) δ −58.04.

reactant | tert-butyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethylcarbamate | 0.22 mmol, 0.10 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1)(F)F | C22H23F3N4O3
reactant | trifluoroacetic acid | 0.25 mmol, 0.19 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.6 mL | ClCCl | CH2Cl2
product | 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanamine | 0.075 g, 97% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCN)(F)F | C17H15F3N4O
